US08461185B2
Step A: methyl 3-(5-methyl-2-pyridinyl)-5-vinylbenzoate
To a solution of methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate (2.0 g, 6.53 mmol) in ethanol (13 mL) was added potassium vinyltrifluoroborate (1.31 g 9.80 mmol), triethylamine (1.37 mL, 9.80 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (0.267 g, 0.327 mmol). The reaction mixture was stirred and microwaved at 140° C. for 10 min. The reaction mixture was cooled to ambient temperature. Water was added, and ethanol was concentrated. The mixture was extracted with dichloromethane (3×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→50% hexanes/ethyl acetate) gave the title compound (1.51 g). MS 254.1 (M+1).

reactant | methyl 3-bromo-5-(5-methylpyridin-2-yl)benzoate | 6.53 mmol, 2.0 g | BrC=1C=C(C(=O)OC)C=C(C1)C1=NC=C(C=C1)C | C14H12BrNO2
reactant | potassium vinyltrifluoroborate | 9.80 mmol, 1.31 g | C(=C)[B-](F)(F)F.[K+]
reactant | triethylamine | 9.80 mmol, 1.37 mL | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | ethanol | 13 mL | C(C)O | C2H6O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.327 mmol, 0.267 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | methyl 3-(5-methyl-2-pyridinyl)-5-vinylbenzoate | 1.51 g | CC=1C=CC(=NC1)C=1C=C(C(=O)OC)C=C(C1)C=C | C16H15NO2
